US09145356B2
1-(4-(1,1,2-trifluoro-2-(perfluoropropoxy)ethoxy)phenyl)ethanone
In the dry box, tetrahydrofuran (50 mL) and 1-(4-hydroxyphenyl)ethanone (0.68 g, 0.005 mol) were added to a round bottom flask equipped with a stirrer. Potassium carbonate (0.175 g, 0.00126 mol) was then added to the flask. 1,1,1,2,2,3,3-heptafluoro-3-((1,2,2-trifluorovinyl)oxy)propane (1.99 g, 0.0075 mol) was then added via the addition funnel and the reaction was placed in an oil bath and heated to a gentle reflux for 5.5 hours. The content was analyzed by proton NMR and shown to be 1-ethynyl-3-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzene.

reactant | 1-(4-hydroxyphenyl)ethanone | 0.005 mol, 0.68 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | Potassium carbonate | 0.00126 mol, 0.175 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,1,2,2,3,3-heptafluoro-3-((1,2,2-trifluorovinyl)oxy)propane | 0.0075 mol, 1.99 g | FC(C(C(OC(=C(F)F)F)(F)F)(F)F)(F)F | C5F10O
reactant | 1-ethynyl-3-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzene | C(#C)C1=CC(=CC=C1)OC(C(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)(F)F | C16H6F16O3
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(4-(1,1,2-trifluoro-2-(perfluoropropoxy)ethoxy)phenyl)ethanone | FC(C(OC(C(C(F)(F)F)(F)F)(F)F)F)(OC1=CC=C(C=C1)C(C)=O)F | C13H8F10O3
